US08048909B2
N-Methyl-1-[5-(2-methylphenyl)-1-(4-methylphenylsulfonyl)-1H-pyrrol-3-yl]methanamine hydrochloride
Using 5-(2-methylphenyl)-1-[(4-methylphenyl)sulfonyl]-1H-pyrrole-3-carbaldehyde (0.46 g), methylammonium chloride (1.11 g) and sodium cyanoborohydride (0.26 g), a procedure as in Example 4 was performed to give the title compound as colorless crystals (yield 0.37 g, 80%).

reactant | 5-(2-methylphenyl)-1-[(4-methylphenyl)sulfonyl]-1H-pyrrole-3-carbaldehyde | 0.46 g | CC1=C(C=CC=C1)C1=CC(=CN1S(=O)(=O)C1=CC=C(C=C1)C)C=O | C19H17NO3S
reactant | methylammonium chloride | 1.11 g | [Cl-].C[NH3+]
reactant | sodium cyanoborohydride | 0.26 g | C(#N)[BH3-].[Na+]
product | N-Methyl-1-[5-(2-methylphenyl)-1-(4-methylphenylsulfonyl)-1H-pyrrol-3-yl]methanamine hydrochloride | yield 0.37 g, 80% | Cl.CNCC1=CN(C(=C1)C1=C(C=CC=C1)C)S(=O)(=O)C1=CC=C(C=C1)C | InChI=1S/C20H22N2O2S.ClH/c1-15-8-10-18(11-9-15)25(23,24)22-14-17(13-21-3)12-20(22)19-7-5-4-6-16(19)2;/h4-12,14,21H,13H2,1-3H3;1H
